US08084489B2
3-({5-[1-(2,6-Dimethyl-4′-trifluoromethoxy-biphenyl-4-yloxy)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester, Isomer 1
This compound is made by the general method as exemplified in Preparation 77 using 3-({5-[4,4,4-trifluoro-1-(4-iodo-3,5-dimethyl-phenoxy)-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester - chiral Isomer 1 and 4-trifluoromethoxy-phenyl boronic acid as the starting materials. MS(ES): 604.3 [M+H]+.

reactant | 3-({5-[4,4,4-trifluoro-1-(4-iodo-3,5-dimethyl-phenoxy)-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | COC(CCNC(=O)C=1SC(=CC1)C(CCC(F)(F)F)OC1=CC(=C(C(=C1)C)I)C)=O | C21H23F3INO4S
reactant | 4-trifluoromethoxy-phenyl boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 3-({5-[1-(2,6-Dimethyl-4′-trifluoromethoxy-biphenyl-4-yloxy)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | COC(CCNC(=O)C=1SC(=CC1)C(CCC(F)(F)F)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C28H27F6NO5S
